US08334397B2
After 497 g of a 70% by weight sorbitol aqueous solution (aldehyde value of sorbitol: 5.0 ppm), 863 g of oleic acid, 3.0 g of sodium carbonate, and 1.7 g of sodium hypophosphite were charged into a 2000 mL four-neck flask fitted with a stirring apparatus, a thermometer, and a nitrogen gas inlet, replacement with nitrogen was performed at room temperature for 30 minutes. Thereafter, the temperature was raised stepwise to 110° C., 140° C., and 170° C. After the temperature reached 170° C. as a reaction temperature, the pressure was reduced to 6.5 kPa and the reaction was carried out under a nitrogen stream. At the time point when the spot of oleic acid as a raw material disappeared on thin-layer chromatography, it was judged that the reaction was completed. The reaction time was 20 hours and, after the completion of the reaction was confirmed, the product was filtrated at 80° C. to obtain sorbitan monooleate.

reactant | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | oleic acid | 863 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | sodium carbonate | 3.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hypophosphite | 1.7 g | [PH2](=O)[O-].[Na+]
product | sorbitan monooleate | CCCCCCCC/C=C\CCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C24H44O6
